US06320050B1
A solution of aluminum trichloride (34.8 g, 261.4 mmol) in chloroform (120 mL) under argon and cooled to 0° C. and was then treated dropwise with a solution of ethyl chlorooxoacetate (18.7 mL, 167.5 mmol) in chloroform (120 mL). The mixture was then stirred at 0° C. for 30 min. After this time a solution of 2-chlorothioanisole (25.0 g, 156.5 mmol) in chloroform (120 mL) was added dropwise to the above mixture at 0° C. and it turned red in color. It was allowed to warm to 25° C. and stirred for an additional 3.5 h. The reaction was quenched by slowly adding water (500 mL). The solution turned yellow in color and was then transferred to a separatory funnel and extracted with chloroform (3×50 mL). The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded (3-chloro-4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester (31.37 g, 77%) as a yellow oil.

reactant | aluminum trichloride | 261.4 mmol, 34.8 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | ethyl chlorooxoacetate | 167.5 mmol, 18.7 mL | ClC(C(=O)OCC)=O | C4H5ClO3
reactant | 2-chlorothioanisole | 156.5 mmol, 25.0 g | ClC1=C(C=CC=C1)SC | C7H7ClS
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
product | (3-chloro-4-methylsulfanyl-phenyl)-oxo-acetic acid ethyl ester | 31.37 g, 77% | C(C)OC(C(=O)C1=CC(=C(C=C1)SC)Cl)=O | C11H11ClO3S
